US05686628
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.84 g) was added to a solution of (S)-1-[(S)-2-(methoxycarbonylamino)-3-methylbutyryl]-N-[2-methyl-1-(2,2,2-trifluoro-1-hydroxyethyl)propyl]pyrrolidine-2-carboxamide (0.41 g) dissolved in dimethylsulphoxide (DMSO; 5 ml) and toluene (5 ml), followed by dropwise addition of dichloroacetic acid (0.32 ml). The resulting solution was allowed to stir at 20° C. for 2 hours. The solution was then poured into ethyl acetate (200 ml) and washed successively with 1M hydrochloric acid, water and brine. The organic solution was dried (MgSO4) and concentrated under vacuum. The residue was purified by flash chromatography (gradient elution; methanol:methylene chloride, 3:97 to 5:95) to give (S)-1-[(S)-2-(methoxycarbonylamino)-3-methylbutyryl]-N-[2-methyl-1-(2,2,2-trifluoroacetyl)propyl]pyrrolidine-2-carboxamide (0.27 g) as a white foam (as a mixture of ketone and hydrated forms); TLC, Rf =0.4 (methanol:dichloromethane, 2.5:97.5); 1H NMR (DMSO/D2O): 4.44 (m, 1H) 4.00 (m, 2H), 3.72 (m, 1H), 3.51 (m, 4H), 202-1.75 (m, 6H), 0.95-0.78 (m, 12H); Analysis for C18H28F3N3O5 ·0.3H2O: Calculated: C, 50.42; H, 6.72; N, 9.80; Found: C, 50.31; H, 6.28; N, 9.56.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.84 g | Cl.CN(CCCN=C=NCC)C
reactant | (S)-1-[(S)-2-(methoxycarbonylamino)-3-methylbutyryl]-N-[2-methyl-1-(2,2,2-trifluoro-1-hydroxyethyl)propyl]pyrrolidine-2-carboxamide | 0.41 g | COC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)NC(C(C)C)C(C(F)(F)F)O)C(C)C | C18H30F3N3O5
reactant | dichloroacetic acid | 0.32 ml | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulphoxide | 5 ml | CS(=O)C | C2H6OS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-1-[(S)-2-(methoxycarbonylamino)-3-methylbutyryl]-N-[2-methyl-1-(2,2,2-trifluoroacetyl)propyl]pyrrolidine-2-carboxamide | 0.27 g | COC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)NC(C(C)C)C(C(F)(F)F)=O)C(C)C | C18H28F3N3O5
